US07498353B2
Diethyl 2-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenylamino)ethylphosphonate (660 mg, 1.4 mmol) was dissolved in anhydrous methylene chloride (10 mL) with triethylamine (0.28 mL, 1.7 mmol). The mixture was cooled in an ice-bath under nitrogen, then a solution of dichloroacetyl chloride (161 μL, 1.7 mmol) in anhydrous dichloromethane (0.5 mL) was added dropwise. After the addition was completed the ice-bath was removed and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with methylene chloride and then washed successively with water, 10% hydrochloric acid and saturated sodium bicarbonate solution. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel, eluting with 1:1 ethyl acetate:hexanes followed by 98:2 methylene chloride:methanol to give diethyl 2-(2,2-dichloro-N-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenyl)acetamido)ethylphosphonate (Cpd. No. 1) as a white solid. 1H NMR (CDCl3): 7.94 (m, 1H), 7.79 (m, 1H), 7.64 (m, 1H), 7.46-7.40 (m, 2H), 7.43-7.36 (m, 2H), 6.72 (s, 1H), 5.85 (s, 1H), 4.08 (m, 6H), 2.13 (m, 2H), 1.33 ppm (m, 6H). MW=580 confirmed by LC-MS, tr=11.55 min (Method A) MH+=578-582.

reactant | Diethyl 2-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenylamino)ethylphosphonate | 1.4 mmol, 660 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1)C=1C=C(C=CC1)NCCP(OCC)(OCC)=O | C21H23Cl2N2O4P
reactant | triethylamine | 1.7 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | 1.7 mmol, 161 μL | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | diethyl 2-(2,2-dichloro-N-(3-(3-(2,6-dichlorophenyl)isoxazol-5-yl)phenyl)acetamido)ethylphosphonate | ClC(C(=O)N(C1=CC(=CC=C1)C1=CC(=NO1)C1=C(C=CC=C1Cl)Cl)CCP(OCC)(OCC)=O)Cl | C23H23Cl4N2O5P
